US07105531B2
4-(4-Chloro-2-fluorophenylamino)benzo[4,5]furo[3,2-b]pyridine-3-carbonitrile
A mixture of 200 mg (0.88 mmol) of 4-chlorobenzo[4,5]furo[3,2-b]pyridine-3-carbonitrile and 0.11 mL (0.97 mmol) of 4-chloro-2-fluoroaniline in 6 mL of 2-ethoxyethanol is heated at reflux temperature for 4 days. A catalytic amount of pyridine hydrochloride is added and the reaction mixture is heated at reflux temperature overnight then cooled to room temperature. The reaction mixture is partitioned between ethyl acetate and water. The organic layer is dried over sodium sulfate, filtered through a pad of diatomaceous earth and concentrated in vacuo to provide 120 mg (40%) of a beige solid, mp 259–261° C.

reactant | 4-chlorobenzo[4,5]furo[3,2-b]pyridine-3-carbonitrile | 0.88 mmol, 200 mg | ClC1=C2C(=NC=C1C#N)C1=C(O2)C=CC=C1 | C12H5ClN2O
reactant | 4-chloro-2-fluoroaniline | 0.97 mmol, 0.11 mL | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
solvent | 2-ethoxyethanol | 6 mL | C(C)OCCO | C4H10O2
product | 4-(4-Chloro-2-fluorophenylamino)benzo[4,5]furo[3,2-b]pyridine-3-carbonitrile | 120 mg, 40% | ClC1=CC(=C(C=C1)NC1=C2C(=NC=C1C#N)C1=C(O2)C=CC=C1)F | C18H9ClFN3O
